US07528147B2
3-[5,6-Dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]propanol is prepared by following the procedure described in example 88a, but using 0.24 g of 3-[5,6-dimethoxy-3-(1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]propanol and a solution of 9.3 ml of methanolic potassium hydroxide (0.1 g/ml; 1.78M). After purification by flash-pack chromatography (silica, 98/02 by volume dichloromethane/methanol as eluents), 0.103 g of 3-[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]propanol is obtained, the characteristics of which are as follows:

reactant | 3-[5,6-dimethoxy-3-(1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]propanol | 0.24 g | COC=1C=C2C(=CN(C2=CC1OC)CCCO)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C27H27N3O5S
reactant | potassium hydroxide | 1.78M, 9.3 ml | [OH-].[K+]
product | 3-[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]propanol | 0.103 g | COC=1C=C2C(=CN(C2=CC1OC)CCCO)C1=CC=2C(=NC=CC2)N1 | C20H21N3O3
